US07700641B2
D. Synthesis of 2-[3-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]propyl]-1H-isoindole-1,3(2H)-dione
Following the procedure as described in PREPARATION 1E, and making non-critical variations to replace 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 2-{3-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]propyl}-1H-isoindole-1,3(2H)-dione, the title compound was obtained (94%) as a foam solid: 1H NMR (300 MHz, CDCl3) δ 9.20 (s, 1H), 7.81-7.79 (m, 2H), 7.68-7.61 (m, 2H), 7.35-7.25 (m, 2H), 7.16-7.14 (m, 1H), 6.90 (d, 1H), 6.80 (s, 1H), 6.48 (s, 1H), 5.86 (dd, 2H), 4.64 (d, 1H), 3.67-4.13 (m, 5H), 2.18-2.05- (m, 2H); 13C NMR (75 MHz, CDCl3) δ 180.6, 168.6, 151.2, 147.8, 143.2, 141.2, 134.2, 134.2, 131.9, 130.0, 128.7, 125.1, 123.2, 113.9, 108.7, 108.3, 101.3, 100.6, 64.9, 58.0, 37.6, 36.1, 26.5; MS (ES+) m/z 487.3 (M+1).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H20BrNO4
reactant | 2-{3-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]propyl}-1H-isoindole-1,3(2H)-dione | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=CC=CC=C12)CCCN1C(C2=CC=CC=C2C1=O)=O)=O | C26H20N2O6
product | 2-[3-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]propyl]-1H-isoindole-1,3(2H)-dione | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=CC=CC=C12)CCCN1C(C2=CC=CC=C2C1=O)=O)=O)CO | C27H22N2O7
